US09034486B2
Step 2: Synthesis of 3-(3-Bromophenyl)-1,2,4-triazolo[3,4-a ]isoquinoline
To a 500-mL three-neck flask were added 6.2 g (18 mmol) of N′-(3-bromobenzoyl)-N-(1-isoquinolyl)hydrazine and 200 mL of N,N-dimethylformamide (DMF). This mixture was stirred at 120° C. for 9 hours under a nitrogen stream. After a predetermined time elapsed, this mixture was cooled to room temperature, and chloroform and water were added thereto. Organic substances were extracted from the aqueous layer with chloroform. The obtained extract solution was washed with a saturated aqueous solution of sodium hydrogen carbonate and saturated brine, and the organic layer was dried over magnesium sulfate. The obtained mixture was gravity-filtered, and the filtrate was concentrated to give a solid. The obtained solid was purified by silica gel column chromatography (chloroform:ethyl acetate=10:1) to give a solid. A methanol suspension of this solid was irradiated with ultrasonic waves, and a solid was collected by suction filtration, so that the substance which was the object of the synthesis was obtained as 5.5 g of a white powder in 92% yield.

reactant | N′-(3-bromobenzoyl)-N-(1-isoquinolyl)hydrazine | 18 mmol, 6.2 g | BrC=1C=C(C(=O)NNC2=NC=CC3=CC=CC=C23)C=CC1 | C16H12BrN3O
reactant | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 3-(3-Bromophenyl)-1,2,4-triazolo[3,4-a ]isoquinoline | 5.5 g, 92% yield | BrC=1C=C(C=CC1)C1=NN=C2N1C=CC1=CC=CC=C21 | C16H10BrN3
